$ Spice netlist generated by v2lvs
$ v2019.3_25.15    Mon Aug 5 16:54:56 PDT 2019
.INCLUDE "./ldo.cdl" 
.INCLUDE "../../cdl/temp_top.cdl"
*.BUSDELIMITER [ 

.SUBCKT user_project_wrapper wbs_we_i wbs_stb_i wbs_sel_i[3] wbs_sel_i[2] 
+ wbs_sel_i[1] wbs_sel_i[0] wbs_dat_o[31] wbs_dat_o[30] wbs_dat_o[29] 
+ wbs_dat_o[28] wbs_dat_o[27] wbs_dat_o[26] wbs_dat_o[25] wbs_dat_o[24] 
+ wbs_dat_o[23] wbs_dat_o[22] wbs_dat_o[21] wbs_dat_o[20] wbs_dat_o[19] 
+ wbs_dat_o[18] wbs_dat_o[17] wbs_dat_o[16] wbs_dat_o[15] wbs_dat_o[14] 
+ wbs_dat_o[13] wbs_dat_o[12] wbs_dat_o[11] wbs_dat_o[10] wbs_dat_o[9] 
+ wbs_dat_o[8] wbs_dat_o[7] wbs_dat_o[6] wbs_dat_o[5] wbs_dat_o[4] wbs_dat_o[3] 
+ wbs_dat_o[2] wbs_dat_o[1] wbs_dat_o[0] wbs_dat_i[31] wbs_dat_i[30] 
+ wbs_dat_i[29] wbs_dat_i[28] wbs_dat_i[27] wbs_dat_i[26] wbs_dat_i[25] 
+ wbs_dat_i[24] wbs_dat_i[23] wbs_dat_i[22] wbs_dat_i[21] wbs_dat_i[20] 
+ wbs_dat_i[19] wbs_dat_i[18] wbs_dat_i[17] wbs_dat_i[16] wbs_dat_i[15] 
+ wbs_dat_i[14] wbs_dat_i[13] wbs_dat_i[12] wbs_dat_i[11] wbs_dat_i[10] 
+ wbs_dat_i[9] wbs_dat_i[8] wbs_dat_i[7] wbs_dat_i[6] wbs_dat_i[5] wbs_dat_i[4] 
+ wbs_dat_i[3] wbs_dat_i[2] wbs_dat_i[1] wbs_dat_i[0] wbs_cyc_i wbs_adr_i[31] 
+ wbs_adr_i[30] wbs_adr_i[29] wbs_adr_i[28] wbs_adr_i[27] wbs_adr_i[26] 
+ wbs_adr_i[25] wbs_adr_i[24] wbs_adr_i[23] wbs_adr_i[22] wbs_adr_i[21] 
+ wbs_adr_i[20] wbs_adr_i[19] wbs_adr_i[18] wbs_adr_i[17] wbs_adr_i[16] 
+ wbs_adr_i[15] wbs_adr_i[14] wbs_adr_i[13] wbs_adr_i[12] wbs_adr_i[11] 
+ wbs_adr_i[10] wbs_adr_i[9] wbs_adr_i[8] wbs_adr_i[7] wbs_adr_i[6] 
+ wbs_adr_i[5] wbs_adr_i[4] wbs_adr_i[3] wbs_adr_i[2] wbs_adr_i[1] wbs_adr_i[0] 
+ wbs_ack_o wb_rst_i wb_clk_i user_clock2 la_oen[127] la_oen[126] la_oen[125] 
+ la_oen[124] la_oen[123] la_oen[122] la_oen[121] la_oen[120] la_oen[119] 
+ la_oen[118] la_oen[117] la_oen[116] la_oen[115] la_oen[114] la_oen[113] 
+ la_oen[112] la_oen[111] la_oen[110] la_oen[109] la_oen[108] la_oen[107] 
+ la_oen[106] la_oen[105] la_oen[104] la_oen[103] la_oen[102] la_oen[101] 
+ la_oen[100] la_oen[99] la_oen[98] la_oen[97] la_oen[96] la_oen[95] la_oen[94] 
+ la_oen[93] la_oen[92] la_oen[91] la_oen[90] la_oen[89] la_oen[88] la_oen[87] 
+ la_oen[86] la_oen[85] la_oen[84] la_oen[83] la_oen[82] la_oen[81] la_oen[80] 
+ la_oen[79] la_oen[78] la_oen[77] la_oen[76] la_oen[75] la_oen[74] la_oen[73] 
+ la_oen[72] la_oen[71] la_oen[70] la_oen[69] la_oen[68] la_oen[67] la_oen[66] 
+ la_oen[65] la_oen[64] la_oen[63] la_oen[62] la_oen[61] la_oen[60] la_oen[59] 
+ la_oen[58] la_oen[57] la_oen[56] la_oen[55] la_oen[54] la_oen[53] la_oen[52] 
+ la_oen[51] la_oen[50] la_oen[49] la_oen[48] la_oen[47] la_oen[46] la_oen[45] 
+ la_oen[44] la_oen[43] la_oen[42] la_oen[41] la_oen[40] la_oen[39] la_oen[38] 
+ la_oen[37] la_oen[36] la_oen[35] la_oen[34] la_oen[33] la_oen[32] la_oen[31] 
+ la_oen[30] la_oen[29] la_oen[28] la_oen[27] la_oen[26] la_oen[25] la_oen[24] 
+ la_oen[23] la_oen[22] la_oen[21] la_oen[20] la_oen[19] la_oen[18] la_oen[17] 
+ la_oen[16] la_oen[15] la_oen[14] la_oen[13] la_oen[12] la_oen[11] la_oen[10] 
+ la_oen[9] la_oen[8] la_oen[7] la_oen[6] la_oen[5] la_oen[4] la_oen[3] 
+ la_oen[2] la_oen[1] la_oen[0] la_data_out[127] la_data_out[126] 
+ la_data_out[125] la_data_out[124] la_data_out[123] la_data_out[122] 
+ la_data_out[121] la_data_out[120] la_data_out[119] la_data_out[118] 
+ la_data_out[117] la_data_out[116] la_data_out[115] la_data_out[114] 
+ la_data_out[113] la_data_out[112] la_data_out[111] la_data_out[110] 
+ la_data_out[109] la_data_out[108] la_data_out[107] la_data_out[106] 
+ la_data_out[105] la_data_out[104] la_data_out[103] la_data_out[102] 
+ la_data_out[101] la_data_out[100] la_data_out[99] la_data_out[98] 
+ la_data_out[97] la_data_out[96] la_data_out[95] la_data_out[94] 
+ la_data_out[93] la_data_out[92] la_data_out[91] la_data_out[90] 
+ la_data_out[89] la_data_out[88] la_data_out[87] la_data_out[86] 
+ la_data_out[85] la_data_out[84] la_data_out[83] la_data_out[82] 
+ la_data_out[81] la_data_out[80] la_data_out[79] la_data_out[78] 
+ la_data_out[77] la_data_out[76] la_data_out[75] la_data_out[74] 
+ la_data_out[73] la_data_out[72] la_data_out[71] la_data_out[70] 
+ la_data_out[69] la_data_out[68] la_data_out[67] la_data_out[66] 
+ la_data_out[65] la_data_out[64] la_data_out[63] la_data_out[62] 
+ la_data_out[61] la_data_out[60] la_data_out[59] la_data_out[58] 
+ la_data_out[57] la_data_out[56] la_data_out[55] la_data_out[54] 
+ la_data_out[53] la_data_out[52] la_data_out[51] la_data_out[50] 
+ la_data_out[49] la_data_out[48] la_data_out[47] la_data_out[46] 
+ la_data_out[45] la_data_out[44] la_data_out[43] la_data_out[42] 
+ la_data_out[41] la_data_out[40] la_data_out[39] la_data_out[38] 
+ la_data_out[37] la_data_out[36] la_data_out[35] la_data_out[34] 
+ la_data_out[33] la_data_out[32] la_data_out[31] la_data_out[30] 
+ la_data_out[29] la_data_out[28] la_data_out[27] la_data_out[26] 
+ la_data_out[25] la_data_out[24] la_data_out[23] la_data_out[22] 
+ la_data_out[21] la_data_out[20] la_data_out[19] la_data_out[18] 
+ la_data_out[17] la_data_out[16] la_data_out[15] la_data_out[14] 
+ la_data_out[13] la_data_out[12] la_data_out[11] la_data_out[10] 
+ la_data_out[9] la_data_out[8] la_data_out[7] la_data_out[6] la_data_out[5] 
+ la_data_out[4] la_data_out[3] la_data_out[2] la_data_out[1] la_data_out[0] 
+ la_data_in[127] la_data_in[126] la_data_in[125] la_data_in[124] 
+ la_data_in[123] la_data_in[122] la_data_in[121] la_data_in[120] 
+ la_data_in[119] la_data_in[118] la_data_in[117] la_data_in[116] 
+ la_data_in[115] la_data_in[114] la_data_in[113] la_data_in[112] 
+ la_data_in[111] la_data_in[110] la_data_in[109] la_data_in[108] 
+ la_data_in[107] la_data_in[106] la_data_in[105] la_data_in[104] 
+ la_data_in[103] la_data_in[102] la_data_in[101] la_data_in[100] 
+ la_data_in[99] la_data_in[98] la_data_in[97] la_data_in[96] la_data_in[95] 
+ la_data_in[94] la_data_in[93] la_data_in[92] la_data_in[91] la_data_in[90] 
+ la_data_in[89] la_data_in[88] la_data_in[87] la_data_in[86] la_data_in[85] 
+ la_data_in[84] la_data_in[83] la_data_in[82] la_data_in[81] la_data_in[80] 
+ la_data_in[79] la_data_in[78] la_data_in[77] la_data_in[76] la_data_in[75] 
+ la_data_in[74] la_data_in[73] la_data_in[72] la_data_in[71] la_data_in[70] 
+ la_data_in[69] la_data_in[68] la_data_in[67] la_data_in[66] la_data_in[65] 
+ la_data_in[64] la_data_in[63] la_data_in[62] la_data_in[61] la_data_in[60] 
+ la_data_in[59] la_data_in[58] la_data_in[57] la_data_in[56] la_data_in[55] 
+ la_data_in[54] la_data_in[53] la_data_in[52] la_data_in[51] la_data_in[50] 
+ la_data_in[49] la_data_in[48] la_data_in[47] la_data_in[46] la_data_in[45] 
+ la_data_in[44] la_data_in[43] la_data_in[42] la_data_in[41] la_data_in[40] 
+ la_data_in[39] la_data_in[38] la_data_in[37] la_data_in[36] la_data_in[35] 
+ la_data_in[34] la_data_in[33] la_data_in[32] la_data_in[31] la_data_in[30] 
+ la_data_in[29] la_data_in[28] la_data_in[27] la_data_in[26] la_data_in[25] 
+ la_data_in[24] la_data_in[23] la_data_in[22] la_data_in[21] la_data_in[20] 
+ la_data_in[19] la_data_in[18] la_data_in[17] la_data_in[16] la_data_in[15] 
+ la_data_in[14] la_data_in[13] la_data_in[12] la_data_in[11] la_data_in[10] 
+ la_data_in[9] la_data_in[8] la_data_in[7] la_data_in[6] la_data_in[5] 
+ la_data_in[4] la_data_in[3] la_data_in[2] la_data_in[1] la_data_in[0] 
+ io_out[37] io_out[36] io_out[35] io_out[34] io_out[33] io_out[32] io_out[31] 
+ io_out[30] io_out[29] io_out[28] io_out[27] io_out[26] io_out[25] io_out[24] 
+ io_out[23] io_out[22] io_out[21] io_out[20] io_out[19] io_out[18] io_out[17] 
+ io_out[16] io_out[15] io_out[14] io_out[13] io_out[12] io_out[11] io_out[10] 
+ io_out[9] io_out[8] io_out[7] io_out[6] io_out[5] io_out[4] io_out[3] 
+ io_out[2] io_out[1] io_out[0] io_oeb[37] io_oeb[36] io_oeb[35] io_oeb[34] 
+ io_oeb[33] io_oeb[32] io_oeb[31] io_oeb[30] io_oeb[29] io_oeb[28] io_oeb[27] 
+ io_oeb[26] io_oeb[25] io_oeb[24] io_oeb[23] io_oeb[22] io_oeb[21] io_oeb[20] 
+ io_oeb[19] io_oeb[18] io_oeb[17] io_oeb[16] io_oeb[15] io_oeb[14] io_oeb[13] 
+ io_oeb[12] io_oeb[11] io_oeb[10] io_oeb[9] io_oeb[8] io_oeb[7] io_oeb[6] 
+ io_oeb[5] io_oeb[4] io_oeb[3] io_oeb[2] io_oeb[1] io_oeb[0] io_in[37] 
+ io_in[36] io_in[35] io_in[34] io_in[33] io_in[32] io_in[31] io_in[30] 
+ io_in[29] io_in[28] io_in[27] io_in[26] io_in[25] io_in[24] io_in[23] 
+ io_in[22] io_in[21] io_in[20] io_in[19] io_in[18] io_in[17] io_in[16] 
+ io_in[15] io_in[14] io_in[13] io_in[12] io_in[11] io_in[10] io_in[9] io_in[8] 
+ io_in[7] io_in[6] io_in[5] io_in[4] io_in[3] io_in[2] io_in[1] io_in[0] 
+ analog_io[30] analog_io[29] analog_io[28] analog_io[27] analog_io[26] 
+ analog_io[25] analog_io[24] analog_io[23] analog_io[22] analog_io[21] 
+ analog_io[20] analog_io[19] analog_io[18] analog_io[17] analog_io[16] 
+ analog_io[15] analog_io[14] analog_io[13] analog_io[12] analog_io[11] 
+ analog_io[10] analog_io[9] analog_io[8] analog_io[7] analog_io[6] 
+ analog_io[5] analog_io[4] analog_io[3] analog_io[2] analog_io[1] analog_io[0] 
+ vssd2 vssd1 vssa2 vssa1 vdda2 vdda1 vccd2 vccd1 
+ vdd vdd1v8 RESET_REGn_PAD SEL_CONV_TIME_REG_PAD[3]
+ SEL_CONV_TIME_REG_PAD[2] SEL_CONV_TIME_REG_PAD[1] SEL_CONV_TIME_REG_PAD[0]
+ SEL_DESIGN_PAD SEL_GROUP_PAD[2] SEL_GROUP_PAD[1] SEL_GROUP_PAD[0]
+ SEL_INST_PAD[1] SEL_INST_PAD[0] CLK_REF_PAD CLK_OUT_PAD DOUT_PAD[23]
+ DOUT_PAD[22] DOUT_PAD[21] DOUT_PAD[20] DOUT_PAD[19] DOUT_PAD[18] DOUT_PAD[17]
+ DOUT_PAD[16] DOUT_PAD[15] DOUT_PAD[14] DOUT_PAD[13] DOUT_PAD[12] DOUT_PAD[11]
+ DOUT_PAD[10] DOUT_PAD[9] DOUT_PAD[8] DOUT_PAD[7] DOUT_PAD[6] DOUT_PAD[5]
+ DOUT_PAD[4] DOUT_PAD[3] DOUT_PAD[2] DOUT_PAD[1] DOUT_PAD[0] DONE_PAD
Xmprj/ldo_0 io_in[14] io_in[13] io_in[12] io_in[11] io_in[10] io_in[9] io_in[8] 
+ io_in[7] io_in[6] io_in[5] io_in[4] io_in[3] io_in[2] io_in[1] io_out[0] 
+ io_out[9] io_out[8] io_out[7] io_out[6] io_out[5] io_out[4] io_out[3] 
+ io_out[2] io_out[1] analog_io[1] vssd1 analog_io[14] vccd1 ldo 
xtemp_top vdd vdd1v8 vssd1 RESET_REGn_PAD SEL_CONV_TIME_REG_PAD[3]
+ SEL_CONV_TIME_REG_PAD[2] SEL_CONV_TIME_REG_PAD[1] SEL_CONV_TIME_REG_PAD[0]
+ SEL_DESIGN_PAD SEL_GROUP_PAD[2] SEL_GROUP_PAD[1] SEL_GROUP_PAD[0]
+ SEL_INST_PAD[1] SEL_INST_PAD[0] CLK_REF_PAD CLK_OUT_PAD DOUT_PAD[23]
+ DOUT_PAD[22] DOUT_PAD[21] DOUT_PAD[20] DOUT_PAD[19] DOUT_PAD[18] DOUT_PAD[17]
+ DOUT_PAD[16] DOUT_PAD[15] DOUT_PAD[14] DOUT_PAD[13] DOUT_PAD[12] DOUT_PAD[11]
+ DOUT_PAD[10] DOUT_PAD[9] DOUT_PAD[8] DOUT_PAD[7] DOUT_PAD[6] DOUT_PAD[5]
+ DOUT_PAD[4] DOUT_PAD[3] DOUT_PAD[2] DOUT_PAD[1] DOUT_PAD[0] DONE_PAD temp_top

.ENDS
